US07700634B2
A mixture of (R)-4-tert-butoxycarbonyl-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine (3.98 g, 12.5 mmol), 5 N hydrochloric acid (10 ml) and ethanol (10 ml) was stirred at 70° C. for 50 min. Ethanol was removed in vacuo and the residue was partitioned between dichloromethane and 2 N sodium hydroxide solution. The aqueous layer was extracted with dichloromethane and combined organic layers were washed with brine, dried over sodium sulfate and concentrated to afford (R)-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine (2.72 g, 12.5 mmol).

reactant | (R)-4-tert-butoxycarbonyl-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine | 12.5 mmol, 3.98 g | C(C)(C)(C)OC(=O)N1[C@@H](COC2=C1C=CC=C2)C2CCCCC2 | C19H27NO3
reactant | hydrochloric acid | 5 N, 10 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (R)-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine | 12.5 mmol, 2.72 g | C1(CCCCC1)[C@@H]1COC2=C(N1)C=CC=C2 | C14H19NO
